2117-03-05 03:07:00 Physician Attending Progress Note
Chief Complaint: delerium, rising pancreatic enzymes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63M admitted 12 days ago with abdominal pain, fever, E Coli bacteremia,
   septic shock from biliary source. Had perc chole tube placed for
   cholecystitis. Intubated for respiratory failure. Ruled in and echo
   showed EF 25-30% with global hypokinesis. Then developed ischemia of
   RLE leading to right AKA [**3-1**]. Also had lap chole at that time.
   Extubated post-operatively. Post-op amylase and lipase rose and fevers
   returned. Felt to need a MRCP though some concern about glass shrapnel
   in eye so transferred for ERCP.
   Has developed worsening delirium over past couple of days.
   History obtained from housestaff
   Patient unable to provide history: delerious
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2117-3-5**] 12:09 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-3-5**] 12:00 AM
   Pantoprazole (Protonix) - [**2117-3-5**] 12:36 AM
   Heparin Sodium (Prophylaxis) - [**2117-3-5**] 12:36 AM
   Other medications:
   Changes to medical and family history:
   PVD - bypass surgeries bilaterally
   active EtOH and cocaine abuse
   CEA
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-3-5**] 02:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 99 (91 - 103) bpm
   BP: 124/72(84) {97/41(52) - 148/84(101)} mmHg
   RR: 24 (16 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     46 mL
                                                                    838 mL
   PO:
             TF:
   IVF:
                                                                     46 mL
                                                                    838 mL
   Blood products:
   Total out:
                                                                    320 mL
                                                                    110 mL
   Urine:
                                                                    320 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -274 mL
                                                                    728 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   Awake, no distress
   Neck supple
   Hrt RRR
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: surgical wounds, normal BS
s, mild tenderness
   Extremities: R recent AKA
   Neurologic: Responds to simple commands, disoriented, baseline facial
   asymetry
   Labs / Radiology
   11.2 g/dL
   647 K/uL
   96 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.1 mEq/L
   20 mg/dL
   106 mEq/L
   138 mEq/L
   33.5 %
   11.9 K/uL
        [image002.jpg]
                             [**2117-3-4**]  09:18 PM
   WBC
   11.9
   Hct
   33.5
   Plt
   647
   Cr
   0.5
   TropT
   0.16
   Glucose
   96
   Other labs: PT / PTT / INR:12.9/23.6/1.1, CK / CKMB /
   Troponin-T:130/2/0.16, ALT / AST:192/92, Alk Phos / T Bili:263/0.7,
   Amylase / Lipase:516/241, Differential-Neuts:69.4 %, Lymph:22.2 %,
   Mono:5.4 %, Eos:2.3 %, Albumin:3.4 g/dL, LDH:211 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR low lung volumes, clear
   ECG: most recent NSR, Q's inferiorly
   Assessment and Plan
   cholecystitis, bacteremia, recent lap chole, rising pancreatic enzymes
   and transaminases - needs updated imaging to eval pancreas and possible
   retained stone. Will discuss need for MRCP versus ERCP with GI after
   updated imaging complete. Will complete 2 weeks of abx.
   MI, cardiomyopathy - cont beta blocker, hold anti-platelet therapy for
   now, eventual statin
   delirium - will follow, apparently had unremarkable CT, may be EtOH and
   benzo withdrawal, will use benzos as needed
   PVD, post-op AKA - continued wound care
   ICU Care
   Nutrition:
   NPO for now
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2117-03-05 07:39:00 Physician Resident Progress Note
Chief Complaint: 63M presents from OSH on evening of [**3-3**]. Originally
   admitted on [**2-22**] with abdominal pain, lethargy, disorientation, and
   fever to 105. Blood cultures grew E. coli and pt developed septic shock
   and was admitted to ICU.  Was intubated and required vasopressin and
   norepinephrine. Started on meropenem (later changed to ertapenem).
   RUQ US on [**2-22**] showed fatty liver, CBD 6mm, and distended gallbladder
   with thickened wall without pericholecystic fluid.  On [**2-24**] pt had
   cholecystic tube placed for gallbladder drainage.
   Pressors were weaned off but pt had NSTEMI on [**2-24**] with peak troponin
   of 37.88. Echo showed EF of 25-30% with global hyopkinesis. Pt also had
   worsening RLE ischemia with no detectable distal pulses.
   On [**3-1**] pt had RKE AKA and cholecystectomy in OR. Extubated on same
   day. Post op pt had increasing amylase to 551 and lipase to 288 with
   temp to 100.8. OSH could not do MRCP because of possibility of shrapnel
   in pt's eye from war injury.  Transfer to [**Hospital1 1**] on [**3-3**] for possible
   ERCP.
   Additionally, pts wife notes worsening mental status and speech
   slurring since extubation on [**3-1**].  Pt does have baseline speech
   slurring partly due to MCC and resultant need for reconstructive
   surgery.
   24 Hour Events:
 PICC LINE - START [**2117-3-4**] 07:30 PM
 BLOOD CULTURED - At [**2117-3-4**] 09:19 PM
   On arrival to [**Hospital Unit Name 10**]:
   1.       Pt interviewed and examined.
   2.       Spoke to wife [**Name (NI) 142**] on phone.
   3.       7:30am discussion with GI about possible ERCP today.  GI said
   questionable call because of no complaints of pain, benign abdominal
   exam, and normal bili levels.  Would appreciate CT abdomen.
   4.       Held ertapenem given possible resulting transaminitis.
   Started meropenem.
   5.       Gave banana bag for history of ETOH.
   6.       Pt received some PRN haldol for agitation at about 1:30am.
   7.       Pt given morphine at 6:10am for presumed pain.
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2117-3-5**] 06:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-3-5**] 12:36 AM
   Heparin Sodium (Prophylaxis) - [**2117-3-5**] 12:36 AM
   Metoprolol - [**2117-3-5**] 06:00 AM
   Morphine Sulfate - [**2117-3-5**] 06:10 AM
   Other medications:
   Flowsheet Data as of  [**2117-3-5**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 95 (88 - 103) bpm
   BP: 152/80(99) {97/41(52) - 152/84(101)} mmHg
   RR: 25 (16 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     46 mL
                                                                  2,140 mL
   PO:
             TF:
   IVF:
                                                                     46 mL
                                                                  2,140 mL
   Blood products:
   Total out:
                                                                    320 mL
                                                                    645 mL
   Urine:
                                                                    320 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -274 mL
                                                                  1,495 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General: In minor distress complaining of
pain all over
   Skin: erythematous around PICC site.  No other obvious findings.
   HEENT: asymmetric lower face with scars from previous reconstructive
   surgery.
   Neck: well healed CEA scar.
   Resp: CTAB
   CV: RRR without M/G/R. Peripheral pulses intact. No peripheral edema.
   Abd: +BS, distended, tenderness to palpation thoughout accoding to
   patient
s facial expressions.
   Neuro: Alert but disoriented to place (knew he was in a hospital).
   Labs / Radiology
   690 K/uL
   10.5 g/dL
   105 mg/dL
   0.5 mg/dL
   21 mEq/L
   4.1 mEq/L
   16 mg/dL
   107 mEq/L
   138 mEq/L
   32.0 %
   11.4 K/uL
        [image002.jpg]
                             [**2117-3-4**]  09:18 PM
                             [**2117-3-5**]  05:03 AM
   WBC
   11.9
   11.4
   Hct
   33.5
   32.0
   Plt
   647
   690
   Cr
   0.5
   0.5
   TropT
   0.16
   Glucose
   96
   105
   Other labs: PT / PTT / INR:12.9/23.6/1.1, CK / CKMB /
   Troponin-T:130/2/0.16, ALT / AST:169/73, Alk Phos / T Bili:233/0.7,
   Amylase / Lipase:516/241, Differential-Neuts:69.4 %, Lymph:22.2 %,
   Mono:5.4 %, Eos:2.3 %, Albumin:3.4 g/dL, LDH:211 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   [1][image003.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [2][**2117-3-5**] 05:03AM
                                   105*[1]
                                     16
                                     0.5
                                     138
                                     4.1
                                     107
                                     21*
                                     14
   Source: Line-PICC
   [3][**2117-3-4**] 09:18PM
                                    96[1]
                                     20
                                     0.5
                                     138
                                     4.1
                                     106
                                     22
                                     14
   [4][image003.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
   [5][**2117-3-5**] 05:03AM
                                    169*
                                     73*
   233*
   0.7
   Source: Line-PICC
   [6][**2117-3-4**] 09:18PM
                                    192*
                                     92*
                                     211
                                   130[1]
                                    263*
                                    516*
                                     0.7
   OTHER ENZYMES & BILIRUBINS
                                   Lipase
   [7][**2117-3-4**] 09:18PM
                                    241*
   CPK ISOENZYMES
                                    CK-MB
                                   cTropnT
   [8][**2117-3-4**] 09:18PM
                                      2
                                  0.16*[1]
   [9][image004.gif]   CHEMISTRY
                                   TotProt
                                   Albumin
                                   Globuln
                                   Calcium
                                    Phos
                                     Mg
                                   UricAcd
                                    Iron
   [10][**2117-3-5**] 05:03AM
   8.5
                                     3.7
                                     1.8
   Source: Line-PICC
   HEMATOLOGIC
                                   calTIBC
                                   VitB12
                                   Folate
                                   Ferritn
                                     TRF
   [11][**2117-3-4**] 09:18PM
                                     [**Telephone/Fax (3) 11224**]
   LIPID/CHOLESTEROL
                                   Cholest
                                   Triglyc
   [12][**2117-3-4**] 09:18PM
   131[1]
   PITUITARY
                                     TSH
   [13][**2117-3-4**] 09:18PM
                                     1.7
   ADDED TE25-TE30 AT 2327 02 25 10
   HEPATITIS
                                    HBsAg
                                    HBsAb
                                    HBcAb
                                   HAV Ab
   [14][**2117-3-4**] 09:18PM
                                     PND
                                     PND
                                     PND
                                     PND
   ADDED TE25-TE30 AT 2327 02 25 10
   LAB USE ONLY
                                   RedHold
   [15][**2117-3-4**] 09:18PM
                                    HOLD
   ADDED [**Last Name (un) **],FE,TIBC AT 2334 02 25 10
   HEPATITIS C SEROLOGY
                                   HCV Ab
   [16][**2117-3-4**] 09:18PM
                                     PND
   GENERAL URINE INFORMATION
                                    Type
                                    Color
                                   Appear
                                   Sp [**Last Name (un) **]
   [17][**2117-3-5**] 05:03AM
   Straw
                                    Clear
                                    1.005
   Source: Catheter
   DIPSTICK URINALYSIS
                                    Blood
                                   Nitrite
                                   Protein
                                   Glucose
                                   Ketone
                                   Bilirub
                                   Urobiln
                                     pH
                                    Leuks
   [18][**2117-3-5**] 05:03AM
                                     NEG
                                     NEG
                                     NEG
                                     NEG
                                     NEG
                                     NEG
                                     NEG
                                     6.5
                                     NEG
   Imaging: [**2117-3-4**] Radiology CHEST (PORTABLE AP)     [**Last Name (LF) 1697**],[**First Name3 (LF) 1698**] [**Doctor First Name **]
   Unread
   Team read: R PICC line in place, no obvious soft tissue or bony
   abnormalities, no cardiomegaly (although portable AP film), no air
   under diaphragms, no effusions, no obvious consolidation or pleural
   edema, great vessels have normal contour, no obvious hilar adenopathy
   or mediastinal enlargement.
   Impression: no acute pathology.
   Microbiology:
   [**2117-3-5**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2117-3-5**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2117-3-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2117-3-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
   63M with PVD, EtOH abuse, presented to OSH with septic shock from
   presumed biliary source. Had cholecystectomy and AKA. Now off pressors
   with stable vitals and transferred to [**Hospital1 1**] for consideration of ERCP
   and further management of abnormal LFTs and lipase.
   .
   # Elevated lipase and abnormal LFTs.  Pancreatic enzymes initially
   normal and (as best as can be seen from notes) transaminases all <
   100.  No bili elevation now or previously.  Based on clinical scenario,
   OSH with some concern for retained CBD stone.  No recent/post op
   imaging to eval for this.
   Other possibilities for transaminitis include ischemic (though numbers
   low and now normotensive - timeline wrong), med effect (in particular
   ertapenem - c/w timeline of start of this med and can do this in [**5-16**]%
   of patients), viral or other acute hepatitis.  Triglycerides are
   normalPatient with baseline EtOH abuse and fatty liver, no
   cirrhosis/portal hypertension or synthetic dysfunction evident.
   - CT abdomen with contrast this morning - looking for CBD measurements
   and stone, pancreatic inflammation, other reasons for transaminase
   elevation.
   - plain film series to eval for possible metal shrapnel in eye to
   preclude MRCP.  If negative, consider MRCP.
   - followup with ERCP team
   - followup Hep B, C for eval of other causes of elevated tranaminases.
   - continue meropenem for now until we receive OSH sensitivities.
   .
   # Septic shock/bacteremia.  Shock now resolved and normotensive with no
   evidence of poor perfusion.  Still needs treatment for bacteremia. PICC
   site appears somewhat red but is not excuisitely painful to palpation.
   - continue meropenem for now until we receive OSH sensitivities.
   - followup blood, urine cultures
   - keep PICC until after CT today, then d/c in favor of peripheral.
   .
   # Altered mental status/neuro deficits.  Patient
s alert and oriented
   x3 today (much improved from last evening).  Mental status overall much
   improved.  Delerium likely due to infection, ICU setting, lab
   abnormalities, washout of sedating meds, and possible alcohol or
   benzodiazepine withdrawal.  Pt has possible asterixis on exam   Neuro
   exam was difficult with poor participation last evening but more and
   consistent today.  Cranial nerves with initially some concern for
   facial nerve weakness (though explained by prior accident).
   TSH and B12 levels normal.
   - minimize sedating and pain meds though likely has some pain (and also
   at risk for withdrawal).
   - if mental status does not continue to improve, consider neurology
   involvement and/or head CT/MRI.
   - start lactulose (to prevent intestinal bacteria from creating
   ammonia)
   .
   # NSTEMI.  Patient had elevated trops (and CKs) in setting of
   hypotension/sepsis, however patient has history of severe PVD (and thus
   likely CAD) and may have had more classic thrombotic infarct.  Inferior
   Q waves and poor transition - present on ECGs early this admission
   though unclear exactly how old.  Was on heparin early this admit, now
   off.
   - start Plavix as has ASA allergy (should be on with such bad PVD) -
   will start if ERCP not in future.
   - continue metoprolol.
   - continue holding statin for now due to transamintis.
   - determine what ASA allergy is.
   .
   # Diarrhea.  Unclear how active recently but has flexiseal in place.
   Early CT abdomen with possible colitis.  C.diff negative at OSH per
   report.
   - C.diff toxin and stool culture.
   - CT abdomen as above.
   .
   # Fever/leukocytosis.  To 100.8 at OSH yesterday but currently afebrile
   at 98.4.  WBCs overall improving from 11.9 yesterday to 11.4 today.
   These findings are likely from prior sepsis, but could be from current
   biliary process.
   - followup blood and urine cultures and C. Diff toxins.
   - biliary workup as above.
   - continue meropenem for now until we receive OSH sensitivities.
   .
   # RLE ischemia/PVD.  Now s/p AKA as above.  Unclear if cause of
   peripheral ischemia was progression of chronic PVD or exacerbated by
   effects of pressors.
   - consider plavix (or aspirin if pt found to have no allergy) after
   ERCP today.
   - start statin as outpatient (after transaminitis resolves).
   - talk to vascular surgery regarding amputation stump care.
   .
   # Polysubstance abuse.  EtOH and cocaine known.  However, patient
   last drink 10 days ago.  Received a banana bag last night.
   - Give another bag of D5, folate, MVI, thiamine.
   - SW consult once mental status improving.
   .
   # Anemia.  Wife reports recent 2 unit prbc transfusion.  - checked Fe
   studies, TSH, folate, B12 all normal
   - guaiac stools.
   - type and screen here.
   .
   # COPD
 pt has history of COPD
   - continue home albuterol and ipratropium
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Well controlled.
   Lines: PICC Line - [**2117-3-4**] 07:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin 5000U SC TID
   Stress ulcer: PPI
   Communication:  Wife [**Name (NI) 142**] [**Telephone/Fax (1) 11217**]
   [**Name2 (NI) 129**] status: Full code
   Disposition:Transfer to floor
   10:51
   ------ Protected Section ------
   Patient seen and examined agree with above. Will add, right PICC line
   with mild surrounding erythema. It was placed at OSH. Cultures negative
   and afebrile to date. Will plan for peripheral access and d/c of PICC
   line once ERCP/MRCP issue has been settled and there is no concern for
   impending sepsis where central access would be required.
   ------ Protected Section Addendum Entered By:[**Name (NI) 394**] [**Last Name (NamePattern1) 395**], MD
   on:[**2117-3-5**] 12:24 ------
References
   1. javascript:command('LCBA','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   4. javascript:command('LCBD','expand')
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22);
   9. javascript:command('LCBI','expand')
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22);

2117-03-06 07:08:00 Physician Resident Progress Note
Chief Complaint: elevated LFTs s/p lap chole
   24 Hour Events:
 BLOOD CULTURED - At [**2117-3-6**] 05:12 AM
   picc line
   - CT with ? bile leak.
   - went for ERCP: No stones. No extravasation of contrast.
   Sphincterotomy performed. biliary sludge extracted. plastic pancreatic
   duct stent was removed successfully with a snare.
   - bolused overnight to prevent pancreatitis
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsPenicillins
   Unknown;
   Aspirin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2117-3-5**] 11:40 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2117-3-5**] 05:45 PM
   Morphine Sulfate - [**2117-3-5**] 08:47 PM
   Pantoprazole (Protonix) - [**2117-3-5**] 11:42 PM
   Heparin Sodium (Prophylaxis) - [**2117-3-5**] 11:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Pain: [**5-13**] Moderate
   Pain location: leg
   Flowsheet Data as of  [**2117-3-6**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 71 (71 - 87) bpm
   BP: 87/33(47) {87/33(47) - 151/100(105)} mmHg
   RR: 19 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,494 mL
                                                                    750 mL
   PO:
                                                                    650 mL
             TF:
   IVF:
                                                                  4,844 mL
                                                                    750 mL
   Blood products:
   Total out:
                                                                  3,140 mL
                                                                    665 mL
   Urine:
                                                                  3,140 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,354 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), distant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, Crackles : bibasilar R>L)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: mildly,
   improved from yesterday
   Extremities: Left lower extremity edema: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   767 K/uL
   10.5 g/dL
   90 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.4 mEq/L
   11 mg/dL
   105 mEq/L
   138 mEq/L
   31.5 %
   13.3 K/uL
        [image002.jpg]
                             [**2117-3-4**]  09:18 PM
                             [**2117-3-5**]  05:03 AM
                             [**2117-3-6**]  04:24 AM
   WBC
   11.9
   11.4
   13.3
   Hct
   33.5
   32.0
   31.5
   Plt
   [**Telephone/Fax (3) 11254**]
   Cr
   0.5
   0.5
   0.6
   TropT
   0.16
   0.06
   Glucose
   96
   105
   90
   Other labs:
   PT / PTT / INR:13.5/26.8/1.2,
   CK / CKMB / Troponin-T:46/2/0.06,
   Albumin:3.4 g/dL, LDH:211 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     RDW
                                   Plt Ct
   [1][**2117-3-6**] 04:24AM
                                    13.3*
                                    3.78*
                                    10.5*
                                    31.5*
                                    15.6*
                                    767*
   [2][**2117-3-5**] 05:03AM
                                    11.4*
                                    3.77*
                                    10.5*
                                    32.0*
                                    15.5
                                    690*
   DIFFERENTIAL
                                    Neuts
                                    Bands
                                   Lymphs
                                    Monos
                                     Eos
                                    Baso
   [3][**2117-3-6**] 04:24AM
                                    73.8*
   19.2
                                     4.0
                                     2.4
                                     0.6
   [4][**2117-3-4**] 09:18PM
                                    69.4
   22.2
                                     5.4
                                     2.3
                                     0.7
   [5][image003.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
   OTHER ENZYMES & BILIRUBINS
                                   Lipase
   [6][**2117-3-6**] 04:24AM
                                    155*
                                     56*
   46*
                                    225*
                                    405*
                                     0.8
   [7][**2117-3-6**] 04:24AM
                                    160*
   [8][**2117-3-5**] 05:03AM
                                    169*
                                     73*
   233*
   0.7
   [9][**2117-3-4**] 09:18PM
                                    241*
   [10][**2117-3-4**] 09:18PM
                                    192*
                                     92*
                                     [**Telephone/Fax (3) 11255**]*
                                    516*
                                     0.7
   HEPATITIS
                                    HBsAg
                                    HBsAb
                                    HBcAb
                                   HAV Ab
   [11][**2117-3-4**] 09:18PM
                                  NEGATIVE
                                  NEGATIVE
                                  NEGATIVE
                                  POSITIVE
   HEP C AB POSITIVE
   Imaging:
   CXR [**3-5**]: Blunting of left costophrenic angle. No vascular congestion
   and little change
   from prior exam.
   Biliary Tree:
   A mild dilation was seen at the main duct with the CBD measuring [**9-17**]
   mm. These findings are compatible with benign papillary stenosis. No
   stones were seen in the CBD. There was no extravasation of contrast
   seen from the cystic duct stump or from any ducts of Luschka. A
   sphincterotomy was performed in the 12 o'clock position using a
   sphincterotome over an existing guidewire. A small amount of biliary
   sludge was extracted from the CBD successfully using a 9-12mm Rx
   balloon catheter.
   Pancreas:
   A mild dilation of approximately 5mm was seen at the distal main
   pancreatic duct. A 4cm by 5FR pancreatic stent was placed successfully
   to aid in biliary cannulation. The plastic pancreatic duct stent was
   removed successfully with a snare.
   Microbiology:
   CDIFF negative
   Blood cultures pending
   Assessment and Plan
   63M with PVD, EtOH abuse, presented to OSH with septic shock from
   presumed biliary source. Had cholecystectomy and AKA. Now off pressors
   with stable vitals and transferred to [**Hospital1 1**] for consideration of ERCP
   and further management of abnormal LFTs and lipase.
   # Elevated lipase and abnormal LFTs.
   s/p lap chole for gangrenous cholecystitis. Rising LFTs concerning for
   retained stone vs leak so transferred here. ERCP without stone or leak.
   Transaminases, lipase, amylase trending down. ERCP c/w benign papillary
   stenosis. Now s/p sphincterotomy. Also hepC ab positive, though
   unlikely acute hepatitis. Patient with baseline EtOH abuse and fatty
   liver, no cirrhosis/portal hypertension or synthetic dysfunction
   evident.
   - ERCP recs: still likely post-op illeus, cont IVF
   - cont trend LFTs, amylase/lipase
   # Sepsis
   [**2-9**] Ecoli from gangrenous cholecystitis
   - continue meropenem for now until we receive OSH sensitivities, plan
   to treat 2wks from last psoitive culture
   - d/c PICC
   - f/u cultures
   # Altered mental status/neuro deficits.
   Mental status continues to improve. TSH and B12 levels normal
   - cont to monitor, reorient
   - cont lactulose (to prevent intestinal bacteria from creating ammonia)
   # NSTEMI.
   Patient had elevated trops (and CKs) in setting of hypotension/sepsis,
   however patient has history of severe PVD (and thus likely CAD) and may
   have had more classic thrombotic infarct.  Will need Plavix as has ASA
   allergy
   - can start plavix if no more procedures, crit has been stable
   - continue metoprolol, though has been held for bradycardia
   - continue holding statin for now due to transamintis.
   - likely will need f/u echo as outpatient
   # CHF, chronic , systolic, EF 25-[**6-6**] have been in setting of NSTEMI. Has been tolerating fluids well.
   - on beta blocker
   - consider ACE
   - 2g Na diet once advanced
   - Is/Os, daily weights
   - repeat ECHO as outpatient
   # Diarrhea.
   Unclear how active recently but has flexiseal in place.  Early CT
   abdomen with possible colitis.
   - C.diff toxin negative, send 2 more
   - f/u final CT
   # ? aspiration/blunting left costophrenic angle
   - f/u repeat CXR
   - on meropenem
   # RLE ischemia/PVD.
   Now s/p AKA. Seen by vascular. Doesn
t need further management. F/u
   with [**Hospital1 1097**] surgeon 2 wks post-op.
   - q day dressing changes with kerlix
   - plavix once sure no more procesures
   - start statin as outpatient (after transaminitis resolves)
   # Hep C
   - f/u viral load
   - ouptpatient f/u
   # Hep B Ab negative
   - vaccinate
   # Polysubstance abuse.
   EtOH and cocaine known.  However, patient
s last drink 10 days ago.
   Received a banana bag last night.
   - out of window for withdrawal
   - SW consult\
   - daily thiamine, folate, MVI
   # Anemia.
   Wife reports recent 2 unit prbc transfusion.  - checked Fe studies,
   TSH, folate, B12 all normal. Hct has been stable.
   - guaiac stools
   - has active type and screen
   # COPD
 pt has history of COPD
   - continue home albuterol and ipratropium
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 LIVER FUNCTION ABNORMALITIES
 DELIRIUM / CONFUSION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HEPATITIS, CHRONIC VIRAL
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 DIARRHEA
 ACUTE PAIN
 IMPAIRED PHYSICAL MOBILITY
 DIARRHEA
 .H/O SHOCK, SEPTIC
 .H/O CHOLECYSTITIS, ACALCULOUS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2117-3-4**] 07:30 PM - discontinued
   20 Gauge - [**2117-3-5**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: may be able to transfer to floor
   ------ Protected Section ------
   MICU WEEKEND COVERAGE ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr.
   [**Last Name (STitle) 11108**]
s note above, including the assessment and plan. I would
   emphasize and add the following points:
   Events: ERCP done yesterday.   PICC line was removed for concern re:
   infection.  Episodes of bradycardia while sleeping, beta blocker held.
   Mental status appears to be improving.
   Tm98.9, P70, SBP87-151.  I/O +2.3.  Sat 94%
   Sleep but arousable, pain in RLE, RRR S1 S2, lungs clear.
   Abd soft, mildly distended, +BS.  No LLE edema, RLE dressing C/D/I.
   On exam distended abdomen.
[**Hospital 1097**] Hospital
   WBC 13.3 from 11, Hct 31.5, Plt 767
   Trop 0.06 from 0.16.
   Bicarb 22 AG 11.
   [**Doctor First Name 92**]/lip and LFTs trending down.
   Meds include: metoprolol, morphine, meropenem.
   CXR with linear area at L base, ?atelectasis.
   63 y/o with gangrenous cholecystitis, gangrenous R AKA, NSTEMI, now s/p
   ERCP in setting of rising lipase, delirium.
   WBC up today but s/p ERCP yesterday, and overall improving mental
   status, benign abdominal exam, decreasing enzymes.
   Will need completion of antibiotic course, monitoring of mental status
   to clear.  Stable for transfer to floor.
   Remainder of plan as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2117-3-6**] 11:33 AM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   5. javascript:command('LCBD','expand')
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_30%22);

2117-03-07 07:09:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: abdominal pain, fever
   Reason for [**Hospital Unit Name 10**] admission: OSH transfer for ERCP with recent biliary
   sepsis and pancreatitis
   24 Hour Events:
 PICC LINE - STOP [**2117-3-6**] 09:00 AM
 CALLED OUT
   [**3-6**]:
   -Started plavix for PVD given aspirin allergy
   -Metoprolol transitioned to PO at 12.5 mg PO BID
   -decided to continue meropenem course until [**3-9**] given E coli on
   OSH cultures
   -held IVF given PO intake of fluids and adequate urine output
   -still NPO per GI
   -called out
   -in evening, UOP started to fall off and was -500 ccs: got 1 L bolus of
   LR over 2 hrs
   -having a lot of pain at his AKA site, morphine switched to dilaudid
   and pain much better controlled
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Aspirin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2117-3-7**] 05:55 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-3-7**] 12:00 AM
   Morphine Sulfate - [**2117-3-7**] 02:15 AM
   Hydromorphone (Dilaudid) - [**2117-3-7**] 05:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Reports pain at AKA site and lower back. Denies CP or SOB
   Flowsheet Data as of  [**2117-3-7**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 66 (61 - 86) bpm
   BP: 99/53(65) {86/43(55) - 127/71(82)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,540 mL
                                                                  1,260 mL
   PO:
                                                                    540 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                  1,200 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    560 mL
   Urine:
                                                                  1,940 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                    700 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   GEN: Pleasant, chronically ill appearing man in NAD, alert
   CV: RRR, no RMG
   PULM: CTAB, no WRR
   ABD: Soft, NTND, +BS
   EXT: R AKA site clean/intact, TTP, no edema, no erythema
   Labs / Radiology
   795 K/uL
   10.9 g/dL
   94 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.2 mEq/L
   15 mg/dL
   104 mEq/L
   136 mEq/L
   32.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2117-3-4**]  09:18 PM
                             [**2117-3-5**]  05:03 AM
                             [**2117-3-6**]  04:24 AM
                             [**2117-3-7**]  04:13 AM
   WBC
   11.9
   11.4
   13.3
   9.1
   Hct
   33.5
   32.0
   31.5
   32.4
   Plt
   [**Telephone/Fax (3) 11271**]95
   Cr
   0.5
   0.5
   0.6
   0.7
   TropT
   0.16
   0.06
   Glucose
   96
   105
   90
   94
   Other labs: PT / PTT / INR:13.5/26.8/1.2, CK / CKMB /
   Troponin-T:46/2/0.06, ALT / AST:108/35, Alk Phos / T Bili:198/0.6,
   Amylase / Lipase:405/160, Differential-Neuts:73.8 %, Lymph:19.2 %,
   Mono:4.0 %, Eos:2.4 %, Albumin:3.4 g/dL, LDH:168 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR AP [**2117-3-6**]:
   New band of atelectasis in the lingula is the only focal pulmonary
   abnormality. There is no consolidation. Lungs are grossly clear. Mild
   cardiomegaly is stable. Pleural effusion, minimal if any. Right PIC
   line
   ends in mid SVC. No pneumothorax.
   Microbiology: [**2117-3-6**]  CATHETER TIP-IV WOUND CULTURE-PENDING
   INPATIENT
   [**2117-3-6**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2117-3-5**]  IMMUNOLOGY HCV VIRAL LOAD-PENDING INPATIENT
   [**2117-3-5**]  STOOL FECAL CULTURE-PENDING; CAMPYLOBACTER CULTURE-PENDING;
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL INPATIENT - NEGATIVE
   [**2117-3-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2117-3-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 BRADYCARDIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 LIVER FUNCTION ABNORMALITIES
 DELIRIUM / CONFUSION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HEPATITIS, CHRONIC VIRAL
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 DIARRHEA
 ACUTE PAIN
 IMPAIRED PHYSICAL MOBILITY
 DIARRHEA
 .H/O SHOCK, SEPTIC
 .H/O CHOLECYSTITIS, ACALCULOUS
   63M with PVD, EtOH abuse, presented to OSH with septic shock from
   presumed biliary source. Had cholecystectomy and AKA. Now off pressors
   with stable vitals and transferred to [**Hospital1 1**] for consideration of ERCP
   and further management of abnormal LFTs and lipase.
   # Elevated lipase and abnormal LFTs.
   Improving. s/p lap chole for gangrenous cholecystitis. Rising LFTs
   concerning for retained stone vs leak so transferred here. ERCP without
   stone or leak. Transaminases, lipase, amylase trending down. ERCP c/w
   benign papillary stenosis. Now s/p sphincterotomy. Also hepC ab
   positive, though unlikely acute hepatitis. Patient with baseline EtOH
   abuse and fatty liver, no cirrhosis/portal hypertension or synthetic
   dysfunction evident.
   - Advance diet to clears
   - ERCP recs: still likely post-op illeus, cont IVF
   - cont trend LFTs, amylase/lipase
   # Sepsis
   [**2-9**] Ecoli from gangrenous cholecystitis
   - continue meropenem for now until we receive OSH sensitivities, plan
   to treat 2wks from last psoitive culture
   - f/u cultures and PICC tip cultures
   # Altered mental status/neuro deficits.
   Mental status continues to improve. TSH and B12 levels normal
   - cont to monitor, reorient
   - cont lactulose (to prevent intestinal bacteria from creating ammonia)
   # NSTEMI.
   Patient had elevated trops (and CKs) in setting of hypotension/sepsis,
   however patient has history of severe PVD (and thus likely CAD) and may
   have had more classic thrombotic infarct.  Will need Plavix, allergic
   rxn to aspirin is heartburn, pt needs aspirin for recent arterial
   thrombosis and NSTEMI.
   - START aspirin 325mg PO Daily
   - Continue plavix
   - Now on metoprolol 12.5mg PO BID
   - continue holding statin for now due to transamintis.
   - likely will need f/u echo as outpatient
   # CHF, chronic , systolic, EF 25-[**6-6**] have been in setting of NSTEMI. Has been tolerating fluids well.
   - on beta blocker
   - consider ACE
   - Sodium restricted diet once advanced
   - Is/Os, daily weights
   - repeat ECHO as outpatient
   # Diarrhea.
   Unclear how active recently but has flexiseal in place.  Large and
   small bowel unremarkable on final CT abdomen report.
   - C.diff toxin negative, send 2 more
   # ? aspiration/blunting left costophrenic angle- no consolidation
   noted.
   - on meropenem
   # RLE ischemia/PVD.
   Now s/p AKA. Seen by vascular. Doesn
t need further management. F/u
   with [**Hospital1 1097**] surgeon 2 wks post-op.
   - q day dressing changes with kerlix
   - continue plavix
   - start statin as outpatient (after transaminitis resolves)
   # Hep C
 new diagnosis, likely from history of polysubstance abuse
   - f/u viral load
   - ouptpatient f/u
   # Hep B Ab negative
   - vaccinate
   # Polysubstance abuse.
   EtOH and cocaine known.  However, patient
s last drink 10 days ago.
   Received a banana bag 2 days ago.
   - out of window for withdrawal
   - SW consult\
   - daily thiamine, folate, MVI
   # Anemia.
   HCT stable. Wife reports recent 2 unit prbc transfusion.  - checked Fe
   studies, TSH, folate, B12 all normal. Hct has been stable.
   - guaiac stools
   - has active type and screen
   # Thrombocytosis: Likely reactive secondary to recent surgery or
   inflammation from recent sepsis.
   - Monitor
   # COPD
 pt has history of COPD
   - continue home albuterol and ipratropium
   ICU Care
   Nutrition: Advancing diet to clears
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-3-5**] 11:00 AM
   18 Gauge - [**2117-3-6**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Patient, patient
s wife
   [**Name (NI) 129**] status: Full code
   Disposition: called out to the floor